US07371764B2
In a similar procedure to Example 1, 7-hydroxyisoquinoline (commercially available) and 2-bromo-N-(4-methylpent-2-yn-4-yl) butyramide were reacted to give 2-(7-isoquinolinyloxy)-N-(4-methylpent-2-yn-4-yl) butyramide (Compound No. 2 of Table 39) as a colourless solid, m.p. 149-50° C.

reactant | 7-hydroxyisoquinoline | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
reactant | 2-bromo-N-(4-methylpent-2-yn-4-yl) butyramide | BrC(C(=O)NC(C#CC)(C)C)CC | C10H16BrNO
product | 2-(7-isoquinolinyloxy)-N-(4-methylpent-2-yn-4-yl) butyramide | C1=NC=CC2=CC=C(C=C12)OC(C(=O)NC(C#CC)(C)C)CC | C19H22N2O2
